US06177429B1
1,4-Dihydro-2,6-dimethyl-4-(3-isothiocyanatophenyl)-3,5-pyrazinedicarboxylic acid, dimethyl ester
4-(3-Aminophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyrazinedicarboxylic acid, dimethyl ester (3.8 mmol) in 16 mL of DMF was slowly added into a DMF solution (20 mL) of 1,1′-thiocarbonyldiimidazole (5.2 mmol) and the reaction went to completion in 0.5 hours. After DMF was removed in vacuo, the residue was purified by chromatography on silica gel eluted with 50% (v/v) ethyl acetate in hexanes to give the title compound as a yellow powder (1.19 g, 87%); 1H-NMR (CDCl3) δ 7.09 (t, 1H, J=8.1 Hz), 6.73 (dd, 1H, J=7.8, 1.9 Hz), 6.59 (dd, 1H, J=8.3, 2.4 Hz), 6.47 (t, 1H, J=2.1 Hz), 6.06 (s, 1H), 3.79 (s, 6H), and 2.43 (s, 6H); 13C-NMR (CDCl3) δ 166.0, 151.7, 149.1, 131.3, 129.6, 117.7, 112.6, 110.3, 108.9, 52.0, and 18.1.

reactant | 4-(3-Aminophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyrazinedicarboxylic acid, dimethyl ester | 3.8 mmol | NC=1C=C(C=CC1)N1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C16H19N3O4
reactant | 1,1′-thiocarbonyldiimidazole | 5.2 mmol | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1,4-Dihydro-2,6-dimethyl-4-(3-isothiocyanatophenyl)-3,5-pyrazinedicarboxylic acid, dimethyl ester | 1.19 g, 87% | CC=1NC(=C(N(C1C(=O)OC)C1=CC(=CC=C1)N=C=S)C(=O)OC)C | C17H17N3O4S
